US05131946
3-Phenyliminohexahydro-3H-oxazolo[3,4-a]pyridine (Process D)
3 g Phenyl isocyanide dichloride in 10 ml methylene chloride was treated at room temperature with a solution of 5.4 ml triethylamine and 1.7 g 2-hydroxymethylpiperidine in 20 ml methylene chloride. After 12 hours at room temperature, the mixture was washed with water, the organic phase was dried over magnesium sulphate, the solvent was distilled and the residue recrystallised from diisopropyl ether.

reactant | Phenyl isocyanide dichloride | 3 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxymethylpiperidine | 1.7 g | OCC1NCCCC1 | C6H13NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Phenyliminohexahydro-3H-oxazolo[3,4-a]pyridine | C1(=CC=CC=C1)N=C1OCC2N1CCCC2 | C13H16N2O
